US06177423B1
11H-5,8,10-Trioxabenzo[de]anthracene-4,6-dione
Paraformaldehyde (16.0 g, 530.0 mmol) and concentrated sulfuric acid (80 mL) were added to a suspension of 3-hydroxy-1,8-naphthalic anhydride (10.24 g, 48.0 mmol) in dioxane (500 mL). The mixture was heated to 80° C. for 2 hours under stirring. After cooling, the reaction mixture was poured into ice water (1000 mL). The precipitate was filtered and dried to give 12.0 g of the title compound.

reactant | Paraformaldehyde | 530.0 mmol, 16.0 g | C=O | CH2O
reactant | sulfuric acid | 80 mL | S(O)(O)(=O)=O | H2O4S
reactant | 3-hydroxy-1,8-naphthalic anhydride | 48.0 mmol, 10.24 g | C1=CC2=CC(=CC3=C2C(=C1)C(=O)OC3=O)O | C12H6O4
reactant | dioxane | 500 mL | O1CCOCC1 | C4H8O2
product | 11H-5,8,10-Trioxabenzo[de]anthracene-4,6-dione | 12.0 g | C1=CC=C2C(OC(C=3C=C4OCOCC4=C1C23)=O)=O | C14H8O5
